### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Integrals): the integral of `x / (c ^ 2 + x ^ 2)`

### PR DESCRIPTION
**Pull request by b1de0**
Add `integral_id_div_sq_add_sq` for `c ≠ 0`, alongside `integral_inv_sq_add_sq` and `integral_div_sq_add_sq`.

---

This evaluates the integral of `x / (c ^ 2 + x ^ 2)` between arbitrary real endpoints as a difference of logarithms divided by two.

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean [hunk 1]
```diff
@@ -367,6 +367,17 @@ theorem integral_div_sq_add_sq {c : ℝ} :
     · rw [integral_const_mul, integral_inv_sq_add_sq hc]
       field_simp
 
+theorem integral_id_div_sq_add_sq {c : ℝ} (hc : c ≠ 0) :
+    ∫ x : ℝ in a..b, x / (c ^ 2 + x ^ 2) = (log (c ^ 2 + b ^ 2) - log (c ^ 2 + a ^ 2)) / 2 := by
+  rw [sub_div]
+  apply integral_eq_sub_of_hasDerivAt (f := fun x => log (c ^ 2 + x ^ 2) / 2)
+  · intro x _
+    have h := (((hasDerivAt_pow 2 x).const_add (c ^ 2)).log
+      (by dsimp; positivity)).div_const 2
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean]:
```suggestion
    have h := (((hasDerivAt_pow 2 x).const_add (c ^ 2)).log (by positivity)).div_const 2
```

**Comment by fpvandoorn** [comment]
bors merge
